US09062048B2
Step F: 1-(3-aminocyclobutyl)-4-(thiazol-5-yl) piperidin-4-ol
Into a 100 mL round-bottom flask, was placed a solution of tert-butyl 3-(4-(2-(tert-butyldimethylsilyl) thiazol-5-yl)-4-hydroxypiperidin-1-yl)cyclobutylcarbamate (as prepared in the previous step) (950 mg, 2.03 mmol, 1.00 equiv) in dichloromethane (10 mL) and CF3COOH (2 mL). The reaction mixture was stirred for 3 h at room temperature. The resulting mixture was concentrated under vacuum. The title compound was obtained as a yellow oil.

reactant | tert-butyl 3-(4-(2-(tert-butyldimethylsilyl) thiazol-5-yl)-4-hydroxypiperidin-1-yl)cyclobutylcarbamate | [Si](C)(C)(C(C)(C)C)C=1SC(=CN1)C1(CCN(CC1)C1CC(C1)NC(OC(C)(C)C)=O)O | C23H41N3O3SSi
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | CF3COOH | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(3-aminocyclobutyl)-4-(thiazol-5-yl) piperidin-4-ol | NC1CC(C1)N1CCC(CC1)(O)C1=CN=CS1 | C12H19N3OS
